US08791123B2
5-((R)-2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)-N-((trans)-4-hydroxycyclohexyl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
Prepared by the method as described in Example 1 using (R)-5-(2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation G) and (trans)-4-aminocyclohexanol. The crude material was purified by reverse phase chromatography, eluting with 0-60% acetonitrile/water to yield the title compound as a white solid (32 mg, 97% yield). MS (apci) m/z=454.1 (M+H).

reactant | (R)-5-(2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC=1C=CC(=C(C1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O)OC | C18H17FN4O3
reactant | (trans)-4-aminocyclohexanol | N[C@@H]1CC[C@H](CC1)O | C6H13NO
product | 5-((R)-2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)-N-((trans)-4-hydroxycyclohexyl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 32 mg, 97% yield | FC=1C=CC(=C(C1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)N[C@@H]2CC[C@H](CC2)O)OC | C24H28FN5O3
